US09085534B2
Preparation 92A: ethyl 4-[3-(trifluoromethoxy)phenyl]butanoate
4-Ethoxy-4-oxobutylzinc bromide solution (25 mL, 0.5 M in THF, 12.5 mmol) was added to a solution of 1-bromo-3-(trifluoromethoxy)benzene (2.6 g, 10.8 mmol) in THF (10 mL) under N2. Pd(dppf)Cl2 (1.18 g, 1.62 mmol) was added, and the reaction was heated at reflux for 3 h. The solution was concentrated and purified by silica gel chromatography (0-20% EtOAc/hexanes) to give 1.22 g (41%) of the title compound as a clear oil. 1H NMR (400 MHz, DMSO-d6): δ 1.26 (3H, t, J=7.2 Hz), 1.91-2.00 (2H, m), 2.32 (2H, t, J=7.4 Hz), 2.67 (2H, t, J=7.4 Hz), 4.13 (2H, q, J=7.2 Hz), 7.03-7.07 (2H, m), 7.11 (1H, d, J=7.7 Hz), 7.30 (1H, t, J=7.7 Hz).

reactant | 4-Ethoxy-4-oxobutylzinc bromide | 12.5 mmol, 0.5 M, 25 mL | [Br-].C(C)OC(CCC[Zn+])=O
reactant | 1-bromo-3-(trifluoromethoxy)benzene | 10.8 mmol, 2.6 g | BrC1=CC(=CC=C1)OC(F)(F)F | C7H4BrF3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 1.62 mmol, 1.18 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 4-[3-(trifluoromethoxy)phenyl]butanoate | 1.22 g, 41% | FC(OC=1C=C(C=CC1)CCCC(=O)OCC)(F)F | C13H15F3O3
